US07863446B2
Synthesis of 3-[6-{4-[5-(nitro) pyridin-2-yl]piperazin-1-yl}-5-phenyl-2-(trifluoromethyl)pyrimidin-4-yl]benzenesulfonamide
The solution of 3-[6-chloro-5-phenyl-2-(trifluoromethyl)pyrimidin-4-yl]benzenesulfonamide (0.1 g, 0.242 mmol) in pyridine (2 ml) was treated with 1-(5-nitropyridin-2-yl)piperazine (0.075 g, 0.363 mmol) and stirred for 11 hours. Subsequently the reaction mixture was poured onto ice-cold water and extracted with ethyl acetate (25 ml). The organic layer was washed with brine and evaporated to give the crude material. Purification by column chromatography (elution with 70% ethyl acetate in hexane) yielded the title compound. 1H-NMR (CDCl3) δ: 3.45-3.46 (m, 4H), 3.72 (m, 4H), 6.52-6.54 (d, 1H), 7.08-7.11 (d, 2H), 7.21-7.26 (m, 2H), 7.32-7.34 (d, 1H), 7.40-7.42 (d, 1H), 7.50 (m, 1H), 7.68 (s, 1H), 7.84-7.89 (m, 1H), 8.21-8.23 (d, 1H), 8.99 (s, 1H). MS m/z: 585.8 (M+).

reactant | 3-[6-chloro-5-phenyl-2-(trifluoromethyl)pyrimidin-4-yl]benzenesulfonamide | 0.242 mmol, 0.1 g | ClC1=C(C(=NC(=N1)C(F)(F)F)C=1C=C(C=CC1)S(=O)(=O)N)C1=CC=CC=C1 | C17H11ClF3N3O2S
reactant | 1-(5-nitropyridin-2-yl)piperazine | 0.363 mmol, 0.075 g | [N+](=O)([O-])C=1C=CC(=NC1)N1CCNCC1 | C9H12N4O2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 3-[6-{4-[5-(nitro) pyridin-2-yl]piperazin-1-yl}-5-phenyl-2-(trifluoromethyl)pyrimidin-4-yl]benzenesulfonamide | [N+](=O)([O-])C=1C=CC(=NC1)N1CCN(CC1)C1=C(C(=NC(=N1)C(F)(F)F)C=1C=C(C=CC1)S(=O)(=O)N)C1=CC=CC=C1 | C26H22F3N7O4S
